US04920120
2-(2,4,5-Trifluoro-6-methyl-3-trimethylsilylphenyl)-4,4-dimethyl-2-oxazolin
A solution of 0.64 ml (4.57 mmol) of diisopropylamine in 20 ml of dry THF under argon was cooled to -78° C. and treated with 2.1 ml (4.20 mmol) of 2.0N n-butyllithium. The LDA solution was stirred at -78° C. for 15 minutes, then warmed to 0° C. To this solution was added a solution of 1.05 g (3.5 mmol) of 2-(2,4,5-trifluoro-3-trimethylsilylphenyl)-4,4-dimethyl-2-oxazoline in 5 ml of THF; the reaction mixture was stirred at 0° C. for 45 minutes, then quenched with 1.50 g (10.6 mmol) of methyl iodide. The solution was stirred at room temperature for three hours and diluted with water. The organic layer was washed with water, dried over magnesium sulfate, and concentrated to give 1.00 g of the title compound as an oil.

reactant | diisopropylamine | 4.57 mmol, 0.64 ml | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 4.20 mmol, 2.0N, 2.1 ml | C(CCC)[Li]
reactant | LDA | [Li+].CC(C)[N-]C(C)C
reactant | 2-(2,4,5-trifluoro-3-trimethylsilylphenyl)-4,4-dimethyl-2-oxazoline | 3.5 mmol, 1.05 g | FC1=C(C=C(C(=C1[Si](C)(C)C)F)F)C=1OCC(N1)(C)C | C14H18F3NOSi
reactant | methyl iodide | 10.6 mmol, 1.50 g | CI | CH3I
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 2-(2,4,5-Trifluoro-6-methyl-3-trimethylsilylphenyl)-4,4-dimethyl-2-oxazolin | 1.00 g | FC1=C(C(=C(C(=C1[Si](C)(C)C)F)F)C)C=1OCC(N1)(C)C | C15H20F3NOSi
